US08071584B2
(racemic)-3-[cis-2-(1-Methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-5-(3-thienyl)-1H-indole-7-carboxamide
5-Bromo-3-[cis-2-(1-methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxamide (37 mg, 0.090 mmol) was placed in a microwave vial and dissolved with 1,4-Dioxane (1 mL) and Water (0.500 mL). Thiophene 3-boronic acid (22.91 mg, 0.179 mmol) and K2CO3 (37.1 mg, 0.269 mmol) were added. Argon was bubbled in the mixture for 10 mins, stirring. PdCl2(dppf) (3.45 mg, 7.16 μmol) was added, and argon was bubbled another 10 mins. The vial was sealed and put under microwave 5 mins at 100° C. with high absorption parameter. The mixture was run through a thiol-SPE column, eluting with methanol. The collected solution was concentrated in vacuo. The brown solid was dissolved in 2-3 mL of DMSO, and run through the ammonium Gilson, in 3 injections to afford 10 mg of the title compound. The cis stereochemistry of the product was confirmed by a 1H NMR NOE study.

reactant | 5-Bromo-3-[cis-2-(1-methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxamide | 0.090 mmol, 37 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)[C@@H]1C[C@@H](S(CC1)(=O)=O)C(C)C | C17H21BrN2O3S
reactant | 1,4-Dioxane | 1 mL | O1CCOCC1 | C4H8O2
reactant | Thiophene 3-boronic acid | 0.179 mmol, 22.91 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | K2CO3 | 0.269 mmol, 37.1 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf) | 7.16 μmol, 3.45 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Water | 0.500 mL | O | H2O
product | (racemic)-3-[cis-2-(1-Methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-5-(3-thienyl)-1H-indole-7-carboxamide | 10 mg | CC(C)[C@@H]1S(CC[C@@H](C1)C1=CNC2=C(C=C(C=C12)C1=CSC=C1)C(=O)N)(=O)=O | C21H24N2O3S2
